US07696240B2
To a solution of 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester (170 mg, from Exp. 64.2.) in dimethylformamide (1.0 ml) was added NaH (1.3 eq.), the mixture was stirred at 22° C. for 30 min. 1-Bromo-2-methoxy-ethane (99 mg) was added, the mixture was stirred for 17 h and partitioned between aqueous NH4Cl and AcOEt. The organic layer was dried, evaporated and the residue was chromatographed on silica (n-heptane/AcOEt, 20:1) to give 1-(2-methoxy-ethyl)-3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester which was hydrolyzed as described in the general procedure B (Exp. 2.2) to give the title compound as a white semisolid. MS: 358.1 ([M−H]−).

reactant | 3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | 170 mg | C(C)OC(=O)C=1NC2=CC=CC=C2C1CC1=CC=CC2=CC=CC=C12 | C22H19NO2
reactant | NaH | 1.3 eq. | [H-].[Na+]
reactant | 1-Bromo-2-methoxy-ethane | 99 mg | BrCCOC | C3H7BrO
solvent | dimethylformamide | 1.0 ml | CN(C=O)C | C3H7NO
product | 1-(2-methoxy-ethyl)-3-naphthalen-1-ylmethyl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1N(C2=CC=CC=C2C1CC1=CC=CC2=CC=CC=C12)CCOC | C25H25NO3
